US06407122B1
To a solution of 3.5 g of (+) threo 1-(p-nitrophenyl)-2-(4-benzylpiperidin-1-yl)-1-aminopropan-1-ol in 35 ml of ethanol and 9 ml of 2 M hydrochloric acid and 5 ml of formaldehyde 40% solution was added portionwise 1.1 g or sodiumcyanoborohydride. After stirring 1 h, the solution was diluted with ethylacetate and basified with a concentrated ammonium hydroxide solution. The organic phase was dried and the solvent removed, affording 3.8 g of (+) threo 1-(p-nitro-phenyl)-2- (4-benzylpiperidin-1-yl) -3-dimethylaminopropan-1-ol, m.p. 132-135° C.

reactant | 1-(p-nitrophenyl)-2-(4-benzylpiperidin-1-yl)-1-aminopropan-1-ol | [N+](=O)([O-])C1=CC=C(C=C1)C(C(C)N1CCC(CC1)CC1=CC=CC=C1)(O)N | C21H27N3O3
reactant | sodiumcyanoborohydride | C(#N)[BH3-].[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | ethanol | 35 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 2 M, 9 ml | Cl | ClH
solvent | formaldehyde | 5 ml | C=O | CH2O
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | 1-(p-nitro-phenyl)-2- (4-benzylpiperidin-1-yl) -3-dimethylaminopropan-1-ol | [N+](=O)([O-])C1=CC=C(C=C1)C(C(CN(C)C)N1CCC(CC1)CC1=CC=CC=C1)O | C23H31N3O3
